US08313669B2
5.00 g (26.9 mmol) of biphenyl-3,3′-diol, 9.5 ml (0.112 mol) of methacrylic acid and 0.7 g of N,N-dimethylaminopyridine (DMAP) are initially introduced in 200 ml of toluene, a solution of 23.5 g (0.114 mol) of N,N′-dicyclohexylcarbodiimide is added with ice-cooling, and the mixture is stirred overnight at room temp. After addition of 4.4 g of oxalic acid dihydrate, the batch is stirred for 1 h and filtered, and the filtrate is evaporated. The residue is chromatographed on silica gel with heptane/ethyl acetate (2:1), giving 3′-(2-methylacryloyloxy)biphenyl-3-yl 2-methylacrylate as colourless crystals of m.p. 70° C.

reactant | biphenyl-3,3′-diol | 26.9 mmol, 5.00 g | C1(=CC(=CC=C1)O)C1=CC(=CC=C1)O | C12H10O2
reactant | methacrylic acid | 0.112 mol, 9.5 ml | C(C(=C)C)(=O)O | C4H6O2
reactant | N,N′-dicyclohexylcarbodiimide | 0.114 mol, 23.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | oxalic acid dihydrate | 4.4 g | O.O.C(C(=O)O)(=O)O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3′-(2-methylacryloyloxy)biphenyl-3-yl 2-methylacrylate | CC(C(=O)OC=1C=C(C=CC1)C1=CC(=CC=C1)OC(C(=C)C)=O)=C | C20H18O4
